US09126955B2
D. (13S,16R)-16-Amino-13-isopropyl-2,11-dioxa-14-azabicyclo[16.2.2]docosa-1(21),18(22),19-trien-15-one
A mixture of 0.87 (1.46 mmol) of 9H-fluoren-9-yl-methyl((13S,16R)-13-isopropyl-15-oxo-2,11-dioxa-14-azabicyclo[16.2.2]docosa-1(21),4,18(22),19-tetraen-16-yl)-carbamate and 0.16 g of 10% Pd/C in 100 ml of methanol was stirred under a hydrogen atmosphere at RT. After stirring overnight and addition of 0.5 ml of piperidine, stirring was continued for 2 h, and the mixture was filtered and freed of solvent. The residue was separated by preparative HPLC. The required fractions were combined and freeze dried. 0.18 g of the title compound was obtained as trifluoroacetate.

reactant | 9H-fluoren-9-yl-methyl((13S,16R)-13-isopropyl-15-oxo-2,11-dioxa-14-azabicyclo[16.2.2]docosa-1(21),4,18(22),19-tetraen-16-yl)-carbamate | C1=CC=CC=2C3=CC=CC=C3C(C12)OC(N([C@H]1C(N[C@H](COCCCCCC=CCOC=2C=CC(C1)=CC2)C(C)C)=O)C)=O | C37H44N2O5
reactant | piperidine | 0.5 ml | N1CCCCC1 | C5H11N
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | 0.16 g | [Pd] | Pd
product | (13S,16R)-16-Amino-13-isopropyl-2,11-dioxa-14-azabicyclo[16.2.2]docosa-1(21),18(22),19-trien-15-one | 0.18 g | N[C@H]1C(N[C@H](COCCCCCCCCOC=2C=CC(C1)=CC2)C(C)C)=O | C22H36N2O3
